Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
___
 
Attending: ___.
 
Chief Complaint:
invasive ductal carcinoma of the right breast
 
Major Surgical or Invasive Procedure:
___: s/p right total mastectomy and sentinel lymph node 
biospy

 
History of Present Illness:
___ is a ___ year old woman found to have a
suspicious right axillary node on routine screening mammogram. A
core needle biopsy of the node was **POSITIVE FOR IDC** (grade 
3,
ER >95%, HER2 POSTIVE). (Note: The carcinoma identified was
described as being present in association with lymphoid tissue
and may represent involvement of a lymph node). 

MRI further identified an area of concern in the right breast at
10 o'clock, as well as a less concerning area in the left 
breast.
Subsequent ultrasound confirmed the lesion and a core needle
biopsy was performed revealing **IDC IN THE RIGHT BREAST 10
O'CLOCK SPECIMEN**. Receptor status was the same.MRI biopsy of
the left breast was benign.  

Given the node positive status and higher stage, she initiated
neoadjuvant chemotherapy to assess ___ tumor response,
potentially provide option for SLNB if good response (as per
recent trials), and early treatment of potential systemic
disease. 

UPDATE: The patient is nearing completion of NCT (dose-dense
Cytoxan and Adriamycin. Weekly Taxol. Herceptin and pertuzumab).
She is tolerating her treatment relatively well and plans
completion in the first week of ___. She has a good clinical
response.
 
Past Medical History:
PMH:
DIABETES MELLITUS                                               
HYPERLIPIDEMIA                                                  
OBESITY                                                         
GOUT                                                            
HYPERTENSION                                                    
ALLERGY                                                         
VARICOSE VEINS                                                  
SEIZURE                                                         
SLEEP APNEA                                                     
SYNCOPE                                                         
TONSILLECTOMY                                                   
HYSTERECTOMY, OVARIES IN (FIBROIDS, MENORRHAGIA)                
NL ETT ___ AND ___                                           
HYPERSENSITIVITY PNEUMONITIS. ___. ___, ___                 
? COMPLEX PARTIAL SEIZURES, ___ ___, ___                   
+ TTT , VASOVAGAL ___                                         
BREAST CANCER                                                   
H/O DEPRESSION

PSH:
none
 
Social History:
___
Family History:
Mother    Living        O P      DEMENTIA                        
        

Father    ___  ___  HEART DISEASE                           

Comments: 4 brothers, 3 sisters living. brother killed; brother 
          DM, sudden death, ? cause. brother died in an MVA.    
          brother bone cancer. brother died at ___ from          
          pancreatic problems, ? cancer (does not know). 2      
          sisters with heart disease. 2 daughters, ___,  
          a/h 
 
Physical Exam:
Discharge Physical Exam:
 
Vitals: 98.5  68  116/71  18  96% RA
Gen: A&Ox3, well-appearing female, in NAD
HEENT: No scleral icterus, no palpable LAD; R axillary incision 
dressing c/d/i without notable fluctuance/ecchymosis; R axillary 
JP with low volume dark serosanguinous output
Pulm: CTAB, no w/r/r
CV: NRRR, no m/r/g
Abd: soft, NT/ND, no rebound/guarding, no palpable masses
Ext: WWP bilaterally, no c/c/e, no ulcerations
Neuro: moves all limbs spontaneously, no focal deficits
Breast: right breast mastectomy incision covered with Dermabond 
and c/d/i without erythema, induration, drainage; left breast 
WNL
 
Pertinent Results:
==================
POSTOPERATIVE LABS
==================

___ 12:58PM BLOOD Hct-29.0*
 
Brief Hospital Course:
Ms. ___ was taken to the Operating Room by Dr. ___ on 
___ and underwent a right simple mastectomy with sentinel 
lymph node biopsy for her diagnosis of invasive ductal carcinoma 
of the right breast, which was well tolerated and without 
immediate complications (for further details regarding the 
procedure, please refer to the operative report). 
Postoperatively, the patient was extubated and transferred to 
the PACU and then to the surgical floor in stable condition. She 
was permitted to resume a regular diet on POD0, which was 
tolerated without issue. Her pain was well controlled with the 
use of non-narcotic PO pain medications and she received 
adequate nursing instruction regarding ___ drain care.

On the morning of POD1, the patient was tolerating a regular 
diet, voiding and ambulating without difficulty, her pain was 
well controlled with PO pain medications, her mastectomy and 
axillary incisions were clean, dry and intact, and she remained 
afebrile and hemodynamically stable. She was thus deemed ready 
for discharge home with ___ nursing for ___ drain care assistance 
and will follow up in Breast ___ within two weeks of 
discharge to assess her postoperative recovery.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 325 mg PO Q6H:PRN Pain - Mild 
2. Lisinopril 20 mg PO DAILY 
3. Prochlorperazine 10 mg PO Q6H:PRN nausea  
4. MetFORMIN (Glucophage) 1000 mg PO BID 
5. Atorvastatin 80 mg PO QPM 
6. Ibuprofen 200 mg PO Q8H:PRN Pain - Mild 
7. Omeprazole 20 mg PO DAILY 
8. Calcium 600 + D(3) (calcium carbonate-vitamin D3) 600 
mg(1,500mg) -400 unit oral DAILY 
9. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Severe 
Do not drink or drink while taking narcotics. Discard extra. 
RX *oxycodone 5 mg 1 tablet(s) by mouth every 6 hours Disp #*10 
Tablet Refills:*0 
2.  Acetaminophen 1000 mg PO Q8H 
Do not exceed 4000mg in 24 hours.  
3.  Atorvastatin 80 mg PO QPM  
4.  Calcium 600 + D(3) (calcium carbonate-vitamin D3) 600 
mg(1,500mg) -400 unit oral DAILY  
5.  Ibuprofen 200 mg PO Q8H:PRN Pain - Mild  
6.  Lisinopril 20 mg PO DAILY  
7.  MetFORMIN (Glucophage) 1000 mg PO BID  
8.  Omeprazole 20 mg PO DAILY  
9.  Prochlorperazine 10 mg PO Q6H:PRN nausea   
10. HELD- Aspirin 81 mg PO DAILY  This medication was held. Do 
not restart Aspirin until discussing with Dr. ___ in follow up 
on ___.

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
invasive ductal carcinoma of the right breast

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

___ were admitted to the Breast Surgical Service under Dr. ___ 
___ after undergoing a right total mastectomy with right 
axillary sentinel lymph node biopsy for a diagnosis of invasive 
ductal carcinoma of the right breast. ___ have made an adequate 
recovery after your surgery and ___ are now ready to be 
discharged home with visiting nurse assistance. Please see below 
for instructions regarding your discharge:

Personal Care:  
1. ___ may keep your incisions open to air or covered with a 
clean, sterile gauze that ___ change daily.
2. Clean around the drain site(s), where the tubing exits the 
skin, with soap and water.  
3. Strip drain tubing, empty bulb(s), and record output(s) ___ 
times per day.  
4. A written record of the daily output from each drain should 
be brought to every follow-up appointment. Your drains will be 
removed as soon as possible when the daily output tapers off to 
an acceptable amount.  
5. ___ may wear a surgical bra or soft, loose camisole for 
comfort.  
6. ___ may shower daily with assistance as needed. Be sure to 
secure your drains so they don't hang down loosely and pull out.
7. The Dermabond skin glue will begin to flake off in about ___ 
days. 
 
Activity:  
1. ___ may resume your regular diet.  
2. Walk several times a day.  
3. DO NOT lift anything heavier than 5 pounds or engage in 
strenuous activity for 6 weeks following surgery. 

Medications:  
1. Resume your regular medications unless instructed otherwise 
and take any new meds as ordered .  
2. ___ may take your prescribed pain medication for moderate to 
severe pain. ___ may switch to Tylenol or Extra Strength Tylenol 
for mild pain as directed on the packaging. Please note that 
Percocet and Vicodin have Tylenol as an active ingredient so do 
not take these meds with additional Tylenol.  
3. Take prescription pain medications for pain not relieved by 
Tylenol.  
4. Take Colace, 100 mg by mouth 2 times per day, while taking 
the prescription pain medication. ___ may use a different 
over-the-counter stool softener if ___ wish.  
5. Do not drive or operate heavy machinery while taking any 
narcotic pain medication. ___ may have constipation when taking 
narcotic pain medications (oxycodone, percocet, vicodin, 
hydrocodone, dilaudid, etc.); ___ should continue drinking 
fluids, ___ may take stool softeners, and should eat foods that 
are high in fiber.  

Call the office IMMEDIATELY if ___ have any of the following:  
1. Signs of infection: fever with chills, increased redness, 
swelling, warmth or tenderness at the surgical site, or unusual 
drainage from the incision(s).  
2. A large amount of bleeding from the incision(s) or drain(s).  

3. Fever greater than 101.5 oF  
4. Severe pain NOT relieved by your medication.  
  
Return to the ER if:  
* If ___ are vomiting and cannot keep in fluids or your 
medications.  
* If ___ have shaking chills, fever greater than 101.5 (F) 
degrees or 38 (C) degrees, increased redness, swelling or 
discharge from incision, chest pain, shortness of breath, or 
anything else that is troubling ___.  
* Any serious change in your symptoms, or any new symptoms that 
concern ___.  

DRAIN DISCHARGE INSTRUCTIONS  
___ are being discharged with drains in place. Drain care is a 
clean procedure. Wash your hands thoroughly with soap and warm 
water before performing drain care. Perform drainage care twice 
a day. Try to empty the drain at the same time each day. Pull 
the stopper out of the drainage bottle and empty the drainage 
fluid into the measuring cup. Record the amount of drainage 
fluid on the record sheet. Reestablish drain suction.

Thank ___ very much for allowing to take part in your care and 
best wishes for a speedy recovery!
 
Followup Instructions:
___